US09416135B2
To a solution of 1-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (132 mg, 0.26 mmol) in CH2Cl2 (5 mL) was added pyridine (1 mL) and AcCl (130 μL, 1.3 mmol). The mixture was stirred at rt for 10 h. The reaction was quenched with water (5 mL). The aqueous layer was extracted with CH2Cl2 (3×10 mL). The combined organic layers were washed with brine, and then dried over anhydrous Na2SO4. The mixture was filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with hexanes/EtOAc (1/1) to give (2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydropyrazino[1,2-a]indol-8-yl)methyl acetate. LC-MS m/z 553 [M+H]+.

reactant | 1-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 0.26 mmol, 132 mg | OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)=O | C23H25F3N4O4S
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | AcCl | 1.3 mmol, 130 μL | C(=O)(C)Cl | C2H3ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydropyrazino[1,2-a]indol-8-yl)methyl acetate | C(C)(=O)OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)=O | C25H27F3N4O5S
